US09329474B2
A three-necked reactor (1 l) that was equipped with a dropping funnel and a condenser and had been dried was charged with 13.1 g (200 mmol) of a zinc powder (special grade, manufactured by Wako Pure Chemical Industries, Ltd.). After replacing the atmosphere inside the reactor with argon, 240 ml of tetrahydrofuran (THF) was added to the reactor. After the addition of 1.9 ml (15 mmol) of chlorotrimethylsilane while stirring the mixture using a magnetic stirrer, the mixture was stirred at 20 to 25° C. for 30 minutes. A solution prepared by dissolving 20.0 g (200 mmol) of 2-methyltetrahydrofuran-3-one in 40 ml of THF was then added to the mixture. Next, a solution prepared by dissolving 34.8 g (180 mmol) of ethyl (2-bromomethyl)acrylate in 50 ml of THF was added dropwise to the mixture. After the addition, the mixture was stirred at room temperature for 2 hours. After confirming completion of the reaction by gas chromatography, an ammonium chloride aqueous solution and ethyl acetate were added to the mixture to effect separation. The resulting organic layer was sequentially washed with water and a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The concentrate was distilled under reduced pressure to obtain 20.4 g of 6-methyl-3-methylene-1,7-dioxaspiro[4.4]nonan-2-one (compound represented by the formula (Ss-1)) as a transparent oily product.

reactant | chlorotrimethylsilane | 15 mmol, 1.9 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-methyltetrahydrofuran-3-one | 200 mmol, 20.0 g | CC1OCCC1=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 40 ml | O1CCCC1 | C4H8O
reactant | THF | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
catalyst | zinc | 200 mmol, 13.1 g | [Zn] | Zn
product | 6-methyl-3-methylene-1,7-dioxaspiro[4.4]nonan-2-one | 20.4 g | CC1C2(CC(C(O2)=O)=C)CCO1 | C9H12O3
